US08754085B2
2,3-Diphenylpyrido[3,2-b]pyrazine
A solution of benzil (45.7 g, 217 mmol) and pyridine-2,3-diamine (23.7 g, 217 mmol) in methanol (514 ml) and acetic acid (57 ml) was heated at 160° C. for 10 mins using microwave radiation. The reaction mixture was concentrated in vacuo. To the crude residue in methanol (510 ml) was added activated charcoal (25 g) and the suspension was stirred at 60° C. for 1 h. The suspension was filtered hot, cooled and then was stirred in an ice bath. The solid was filtered, washed with cold methanol (50 ml) and dried in vacuo at 40° C. overnight to afford the title compound as pale brown crystals.

reactant | benzil | 217 mmol, 45.7 g | C1(=CC=CC=C1)C(=O)C(=O)C1=CC=CC=C1 | C14H10O2
reactant | pyridine-2,3-diamine | 217 mmol, 23.7 g | N1=C(C(=CC=C1)N)N | C5H7N3
solvent | methanol | 514 ml | CO | CH4O
solvent | acetic acid | 57 ml | C(C)(=O)O | C2H4O2
product | 2,3-Diphenylpyrido[3,2-b]pyrazine | C1(=CC=CC=C1)C1=C(N=C2C(=N1)C=CC=N2)C2=CC=CC=C2 | C19H13N3
